US05763437
A solution of l-acetoxymethyl-5,6,7,8-tetrahydro-isoquinoline (0.44 g) in 6N hydrochloric acid (10 ml) aqueous solution was heated for 4 hours at ca. 100° C. After cooling, the mixture was concentrated in vacuo to give 1-hydroxymethyl-5,6,7,8-tetrahydroisoquinoline hydrochloride (0.42 g) as a brown solid.

reactant | l-acetoxymethyl-5,6,7,8-tetrahydro-isoquinoline | 0.44 g | C(C)(=O)OCC1=NC=CC=2CCCCC12 | C12H15NO2
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
product | 1-hydroxymethyl-5,6,7,8-tetrahydroisoquinoline hydrochloride | 0.42 g | Cl.OCC1=NC=CC=2CCCCC12 | InChI=1S/C10H13NO.ClH/c12-7-10-9-4-2-1-3-8(9)5-6-11-10;/h5-6,12H,1-4,7H2;1H
